US09371321B2
Preparation 11: tert-Butyl (S)-4-(5-((S)-1-((2-amino-5-cyano-6-methylpyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-2-methylpiperazine-1-carboxylate
To a 250 mL round-bottom flask were added 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile (0.821 g, 4.87 mmol) and tert-butyl (S)-4-(5-((S)-1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-2-methylpiperazine-1-carboxylate (1.40 g, 3.75 mmol) in DMSO (15 mL). Triethylamine (2.1 mL, 15 mmol) was added to the mixture, which was then heated to 85° C. for 2 hours. After cooling, the mixture was partitioned between saturated NaHCO3 and ethyl acetate. The aqueous layer was extracted with ethyl acetate. The organic layers were combined, dried over MgSO4, filtered, and concentrated. The crude product was purified by column chromatography (SiO2, 20-100% EtOAc/heptane gradient). The product-containing fractions were combined and then concentrated in vacuo to give the title compound as light-yellow oil (1.7 g, 90%). ESI-MS m/z [M+H]+ calc'd for C26H35N9O2, 506. found 506.

reactant | 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile | 4.87 mmol, 0.821 g | NC1=NC(=C(C(=N1)Cl)C#N)C | C6H5ClN4
reactant | tert-butyl (S)-4-(5-((S)-1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-2-methylpiperazine-1-carboxylate | 3.75 mmol, 1.40 g | N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C | C20H31N5O2
reactant | Triethylamine | 15 mmol, 2.1 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | tert-Butyl (S)-4-(5-((S)-1-((2-amino-5-cyano-6-methylpyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-2-methylpiperazine-1-carboxylate | 1.7 g, 90% | NC1=NC(=C(C(=N1)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C)C#N)C | C26H35N9O2
